US05403854
Preparation of 3-(pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
To a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (5.00 g, 29.4 mmol) in absolute ethanol (100 mL) was added a suspension of 3-aminopyridine (2.77 g, 29.4 mmol) in ethanol (50 mL). The mixture was heated at reflux for 18 hours, then concentrated. Chromatography (4:1 EtOAc/hexane) afforded 3.15 g (49%)of a white solid: mp 140°-145° C.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 29.4 mmol, 5.00 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 3-aminopyridine | 29.4 mmol, 2.77 g | NC=1C=NC=CC1 | C5H6N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 3.15 g, 49% | N1=CC(=CC=C1)NC=1C(C(C1OCC)=O)=O | C11H10N2O3
